US04005151
40 Grams of 2,5-dichloroaniline and 250 g of 75% aqueous sulfuric acid solution were charged into a ceramic ball mill having one liter capacity. A suspension of fine particles of 2,5-dichloroaniline sulfate was prepared by a method similar to that described in Example 5. The suspension was transferred into a beaker having one liter capacity. The ceramic ball mill used was washed with 77 g of 75% aqueous sulfuric acid solution and the washings were transferred into the beaker. Diazotization of 2,5-dichloroaniline sulfate in the form of suspension of fine particles was carried out by a method similar to that described in Example 5 except that 18.2 g of sodium nitrite powder was added in 15 minutes. The diazotized solution was hydrolyzed by a method similar to that described in Example 5. 35.5 Grams of 2,5-dichlorophenol (100° - 105° C/20 mmHg) was obtained. The yield was found to be 88.3%.

reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | sulfuric acid | 250 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,5-dichloroaniline sulfate | S(=O)(=O)(O)O.ClC1=C(N)C=C(C=C1)Cl
product | 2,5-dichlorophenol | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
